US05840764
3-Ethoxy-4-(2-hydroxy-6-methyl-phenylamino)-cyclobut-3-ene-1,2-dione (0.4 g, 1.62mmol) in t-butylamine (4.8mL) and dichloromethane (4.8mL) was allowed to stand at room temperature for 7 days. The slurry was filtered, rinsed with ethyl acetate, and dried. Chromatography with 10% methanol in dichloromethane, followed by trituration with 5% ethyl acetate in hexane gave 3-tert-butylamino-4-(2-hydroxy-6-methyl-phenylamino)-cyclobut-3-ene-1,2-dione, 0.18 g (0.66 mmol, 41%).

reactant | 3-Ethoxy-4-(2-hydroxy-6-methyl-phenylamino)-cyclobut-3-ene-1,2-dione | 1.62mmol, 0.4 g | C(C)OC=1C(C(C1NC1=C(C=CC=C1C)O)=O)=O | C13H13NO4
reactant | t-butylamine | 4.8mL | C(C)(C)(C)N | C4H11N
solvent | dichloromethane | 4.8mL | ClCCl | CH2Cl2
product | 3-tert-butylamino-4-(2-hydroxy-6-methyl-phenylamino)-cyclobut-3-ene-1,2-dione | C(C)(C)(C)NC=1C(C(C1NC1=C(C=CC=C1C)O)=O)=O | C15H18N2O3
